US07452993B2
HCl gas was bubbled through a suspension of 3-[3-(2-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzonitrile (40 mg, 0.088 mmol) in 2.5 ml of anhydrous MeOH for 3 minutes at 0° C. After stirring for 23 hours at room temperature, ether (10 mL) was added and precipitation occurred. The solid was collected after filtration and dried to afford methyl 3-(3-(2-methoxyphenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl)benzimidate as a yellow solid.

reactant | HCl | Cl | ClH
reactant | 3-[3-(2-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzonitrile | 0.088 mmol, 40 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C#N)C=CC2)COCC[Si](C)(C)C | C26H28N4O2Si
reactant | ether | 10 mL | CCOCC | C4H10O
solvent | MeOH | 2.5 ml | CO | CH4O
product | methyl 3-(3-(2-methoxyphenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl)benzimidate | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=C(C(OC)=N)C=CC2 | C21H18N4O2
